Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1]#[C:2][C:3][O:4][H:5].[C:6]([H:7])([H:8])[H:9]>>[C:1]=[C:2]([C:3][O:4][H:5])[C:6]([H:7])([H:8])[H:9],-1.9741993947
[C:9]([H:10])([H:11])[H:12].[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])[H:8]>>[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-3.52278448122
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][O:2]/[C:3]([C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[O:10][H:11],1.57885408623
[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2]([O:3])[C:11]([H:12])([H:13])[H:14],3.88310230667
[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([C:8][C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:9]>>[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-4.8780585278
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20]>>[H:12].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20],4.28100403583
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8],3.7294211555
[O:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11].[O:1][C:2][C:3],4.22049288374
[H:1][C:2]#[C:3][C@:9]([C:4][C:5]([H:6])([H:7])[H:8])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]1[C:3]2[C@@:4]1([C:5]([H:6])([H:7])[H:8])[C@@:9]2([H:10])[C:11]([H:12])([H:13])[H:14],-1.77362031222
[H:1][C:2]1[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C@@:10]1([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([O:3]/[C:4]([H:5])=[C:7](\[H:8])[C:12]([H:13])([H:14])[H:15])([H:6])[C:10]([H:9])[H:11],1.13415849156
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14],3.98999584657
[H:12].[H:1][C:2][C:3](=[C:4]([O:5][H:6])[O:7][H:8])[C:9]([H:10])[H:11]>>[H:1][C:2][C:3](=[C:4]([O:5][H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12],-4.21797710325
[O:1].[O:2]=[C:3]=[C:4]([H:5])[H:6]>>[O:1][O:2][C:3][C:4]([H:5])[H:6],0.826278526549
[C:11]([H:12])[H:13].[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10]>>[H:1][C:2][O:3][C:4]([C:5]([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13],-6.59911988054
[H:14].[H:1][C:2]([H:3])=[C:4]([H:5])[C@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.40038296491
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[H:11].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:7][C:8]([H:9])[H:10],4.3293156548
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3][O:5][C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11].[H:4],2.17475435284
[C:1]=[C:2]([O:3][H:4])/[C:5]([H:6])=[C:7]/[O:8][H:9]>>[C:1]#[C:2][C:5]([H:6])[C:7][O:8][H:9].[O:3][H:4],4.0822038134
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],4.402650689750001
[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[H:4].[O:1]=[C:2]([H:3])/[C:5]([H:6])=[C:7](\[H:8])[C:9][C:10]([H:11])([H:12])[H:13],0.827976593007
[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13],-1.7672089762799998
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])[O:8][C:9][H:10]>>[C:9][H:10].[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])=[O:8],3.45769419265
[H:1][O:2][C:3][O:4][C@@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9],1.2997397111799998
[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[O:1][O:2][C:3][C:4]([H:5])[H:6]>>[O:1][O:2]/[C:3]([C:4]([H:5])[H:6])=[C:7](/[H:8])[C:9]([H:10])([H:11])[H:12],-4.69856801976
[H:11].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-4.8530723380900005
[H:16].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.45235154097
